US06890942B2
4-(1-Benzyl-cyclopropanesulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with 1-benzyl-cyclopropanesulfonic acid amide as described in the preparation of compound 1 to yield the title compound. MS (M−H) calcd for C22H22FN2O6S: 461.1. Found: 461.2. HRMS (M+H) calcd for C22H24FN2O6S: 463.1339. Found: 463.1331. 1H NMR (500 MHz, CDCl3) 0.95 (m, 2), 1.26 (m, 2), 3.25 (s, 2), 3.85 (s, 3), 4.79 (s, 2), 6.43 (s, 1), 7.06-7.32 (overlapping m, 9). Anal calcd for C22H23FN2O6S: C, 57.13; H, 5.01; N, 6.05. Found: C, 56.06; H, 5.42; N, 6.25.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | 1-benzyl-cyclopropanesulfonic acid amide | C(C1=CC=CC=C1)C1(CC1)S(=O)(=O)N | C10H13NO2S
product | 4-(1-Benzyl-cyclopropanesulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C2(CC2)CC2=CC=CC=C2)O)=O)OC)C=C1 | C22H23FN2O6S
